US06194406B1
Combine methyl 2-methoxy-5-chloromethylbenzoate (5 mmol) and dimethylformamide (10 mL). Cool in an ice bath and add sodium thiomethoxide (15 mmol). Heat to 75° C. After 5.5 hours, partition the reaction mixture between water and ethyl acetate. Extract the organic layer with water, dry over Na2SO4, filter, and concentrate in vacuo to give methyl 2-methoxy-5-(methylthiomethyl)benzoate.

reactant | methyl 2-methoxy-5-chloromethylbenzoate | 5 mmol | COC1=C(C(=O)OC)C=C(C=C1)CCl | C10H11ClO3
reactant | sodium thiomethoxide | 15 mmol | C[S-].[Na+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | methyl 2-methoxy-5-(methylthiomethyl)benzoate | COC1=C(C(=O)OC)C=C(C=C1)CSC | C11H14O3S
